US04673686
N-(1-cycloheptylmethyl-2-pyrrolidinylmethyl)-2,3-dimethoxy-5-sulphamoyl benzamide
13 g of 2,3-dimethoxy-5-sulphamoyl benzoic acid, 150 ml of acetone, 28 ml of water and 7 ml of triethylamine (density 0.726) are placed in a 250 ml flask fitted with an agitator, a thermometer, a condenser and a dropping funnel. The resultant solution is cooled from 0° to +5° C. 5.4 g of ethyl chloroformate is added drop by drop and the reaction medium is agitated for 45 minutes at room temperature and cooled to 0° C. again. 13.7 g of 1-cycloheptylmethyl-2-aminomethylpyrrolidine is added drop by drop. The medium is agitated for 1 hour at room temperature then left to stand. The crystals formed are drained, washed with water and dried in an oven at 30° C.

reactant | 2,3-dimethoxy-5-sulphamoyl benzoic acid | 13 g | COC1=C(C(=O)O)C=C(C=C1OC)S(N)(=O)=O | C9H11NO6S
reactant | acetone | 150 ml | CC(=O)C | C3H6O
reactant | ethyl chloroformate | 5.4 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-cycloheptylmethyl-2-aminomethylpyrrolidine | 13.7 g | C1(CCCCCC1)CN1C(CCC1)CN | C13H26N2
solvent | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
solvent | water | 28 ml | O | H2O
product | N-(1-cycloheptylmethyl-2-pyrrolidinylmethyl)-2,3-dimethoxy-5-sulphamoyl benzamide | C1(CCCCCC1)CN1C(CCC1)CNC(C1=C(C(=CC(=C1)S(N)(=O)=O)OC)OC)=O | C22H35N3O5S
